US04851526
5-[(Cyclopentylmethyl)(2-propenyl)amino]-1-[4-(1H-imidazol-1-yl)phenyl]hexan-1-one
In a manner similar to Example 26, react 5-[(cyclopentylmethyl)(2-propenyl)amino]-1-(4-fluorophenyl)hexan-1-one with 1H-imidazole to obtain the title compound.

reactant | 5-[(cyclopentylmethyl)(2-propenyl)amino]-1-(4-fluorophenyl)hexan-1-one | C1(CCCC1)CN(C(CCCC(=O)C1=CC=C(C=C1)F)C)CC=C | C21H30FNO
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
product | 5-[(Cyclopentylmethyl)(2-propenyl)amino]-1-[4-(1H-imidazol-1-yl)phenyl]hexan-1-one | C1(CCCC1)CN(C(CCCC(=O)C1=CC=C(C=C1)N1C=NC=C1)C)CC=C | C24H33N3O
